US07112584B2
930 mg of (±)-4-ethyl-6-[4-(2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethylvaleroylamino]-2,3-benzoxazin-1-one and 680 mg of 2,3-dichloro-5,6-dicyano-p-benzoquinone in 90 ml of dioxane are refluxed for 20 hours, mixed with water and suctioned off. After chromatography on silica gel (hexane/ethyl acetate 1.5+1), 810 mg of (±)-4-ethyl-6-[4-(7-benzofuranyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroylamino]-2,3-benzoxazin-1-one is obtained. Flash point 212° C.

reactant | (±)-4-ethyl-6-[4-(2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethylvaleroylamino]-2,3-benzoxazin-1-one | 930 mg | C(C)C1=NOC(C2=C1C=C(C=C2)NC(C(CC(C)(C)C2=CC=CC=1CCOC12)(C(F)(F)F)O)=O)=O | C25H25F3N2O5
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 680 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | water | O | H2O
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
product | (±)-4-ethyl-6-[4-(7-benzofuranyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroylamino]-2,3-benzoxazin-1-one | 810 mg | C(C)C1=NOC(C2=C1C=C(C=C2)NC(C(CC(C)(C)C2=CC=CC=1C=COC12)(C(F)(F)F)O)=O)=O | C25H23F3N2O5
